US09450195B2
A three neck round bottom flask was charged with 2-(3-(1-(4-bromo-2,6-diisopropylphenyl)-1H-imidazol-2-yl)phenoxy)-9-(pyridin-2-yl)-9H-carbazole (7.11 g, 11.08 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (8.44 g, 33.2 mmol), Pd2DBA3 (0.203 g, 0.222 mmol), dicyclohexyl(2′,4′,6′-triisopropyl-[1,1′-biphenyl]-2-yl)phosphine (0.423 g, 0.887 mmol), potassium acetate(3.26 g, 33.2 mmol), and Dioxane (150 ml). The reaction mixture was allowed to reflux for 16 hours. The reaction mixture was diluted with 10% LiCl aqueous solution and extracted by Ethyl acetate. The organic portion was combined and subjected to a column chromatography (SiO2 gel, 30% EtOAc in heptane;) to yield (1)(6.90 g) (90%) of 2-(3-(1-(2,6-diisopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)phenoxy)-9-(pyridin-2-yl)-9H-carbazole.

reactant | 2-(3-(1-(4-bromo-2,6-diisopropylphenyl)-1H-imidazol-2-yl)phenoxy)-9-(pyridin-2-yl)-9H-carbazole | 11.08 mmol, 7.11 g | BrC1=CC(=C(C(=C1)C(C)C)N1C(=NC=C1)C=1C=C(OC2=CC=3N(C4=CC=CC=C4C3C=C2)C2=NC=CC=C2)C=CC1)C(C)C | C38H33BrN4O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 33.2 mmol, 8.44 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 33.2 mmol, 3.26 g | C(C)(=O)[O-].[K+]
reactant | Dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | LiCl | [Li+].[Cl-]
catalyst | Pd2DBA3 | 0.222 mmol, 0.203 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,4′,6′-triisopropyl-[1,1′-biphenyl]-2-yl)phosphine | 0.887 mmol, 0.423 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
product | 2-(3-(1-(2,6-diisopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)phenoxy)-9-(pyridin-2-yl)-9H-carbazole | 6.90 g, 90% | C(C)(C)C1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(C)C)N1C(=NC=C1)C=1C=C(OC2=CC=3N(C4=CC=CC=C4C3C=C2)C2=NC=CC=C2)C=CC1 | C44H45BN4O3
